US07015218B1
N-{3-Cyano-4-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]phenyl}-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-fluorophenyl)-5-methylpyrazole-4-carboxylic acid (0.6 g) and 5-amino-2-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]benzonitrile (0.8 g), the title compound (0.6 g) was obtained, melting point: 240° C.

reactant | 1-(4-fluorophenyl)-5-methylpyrazole-4-carboxylic acid | 0.6 g | FC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9FN2O2
reactant | 5-amino-2-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]benzonitrile | 0.8 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)C1CCOCC1 | C16H22N4O
product | N-{3-Cyano-4-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]phenyl}-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide | 0.6 g | C(#N)C=1C=C(C=CC1N1CCN(CC1)C1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F | C27H29FN6O2
